US07157464B2
Synthesis of 1-[4-(4-Chloro-3-methoxyphenyl)-piperazin-1-yl]-2-(4-chloro-5-[3-Fluoro-phenyl]-3-trifluoromethyl-pyrazole-1-yl)-ethanone
Protocol T was followed using 4-Chloro-5-[3-Fluorophenyl]-3-trifluoromethyl-1H-pyrazole, K2CO3, 2-Chloro-1-[4-(4-chloro-3-methoxy-phenyl)-piperazin-1-yl]-ethanone and DMF. Column chromatography using a solvent mixture (hexane/ethyl acetate=2/3, Rf=0.59) afforded the title compound as a white solid. 1H NMR (400 MHz, CDCl3): 7.64–7.68 (d, 1H), 7.56–7.62 (d, 1H), 7.36–7.42 (m, 1H), 7.22–7.24 (m, 2H), 7.08–7.12 (m, 1H), 6.42–6.52 (m, 2H), 5.2 (s, 2H), 3.9 (s, 3H), 3.62–3.82 (m, 4H), 3.12–3.22 (m, 4H).

reactant | 4-Chloro-5-[3-Fluorophenyl]-3-trifluoromethyl-1H-pyrazole | ClC=1C(=NNC1C1=CC(=CC=C1)F)C(F)(F)F | C10H5ClF4N2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Chloro-1-[4-(4-chloro-3-methoxy-phenyl)-piperazin-1-yl]-ethanone | ClCC(=O)N1CCN(CC1)C1=CC(=C(C=C1)Cl)OC | C13H16Cl2N2O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 1-[4-(4-Chloro-3-methoxyphenyl)-piperazin-1-yl]-2-(4-chloro-5-[3-Fluoro-phenyl]-3-trifluoromethyl-pyrazole-1-yl)-ethanone | ClC1=C(C=C(C=C1)N1CCN(CC1)C(CN1N=C(C(=C1C1=CC(=CC=C1)F)Cl)C(F)(F)F)=O)OC | C23H20Cl2F4N4O2
